US08664220B2
Step 5: 1-[4′-(3-Methyl-4-{2-[methyl-((R)-1-phenyl-ethyl)-carbamoyl]-cyclopropyl}-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 10, using 2-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-cyclopropanecarboxylic acid methyl-((R)-1-phenyl-ethyl)-amide and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | 2-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-cyclopropanecarboxylic acid methyl-((R)-1-phenyl-ethyl)-amide | CN(C(=O)C1C(C1)C=1C(=NOC1C1=CC=C(C=C1)Br)C)[C@H](C)C1=CC=CC=C1 | C23H23BrN2O2
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-[4′-(3-Methyl-4-{2-[methyl-((R)-1-phenyl-ethyl)-carbamoyl]-cyclopropyl}-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C1C(C1)C(N([C@H](C)C1=CC=CC=C1)C)=O | C35H36N2O4
